US09062055B2
Step 2. 1-(3-Fluorophenyl)-N-methoxy-N-methyl-1H-indole-2-carboxamide
Activated molecular sieves (6.0 g) 4 Å were placed in an oven dried flask and cooled to room temperature under nitrogen. To the flask was charged with N-methoxy-N-methyl-1H-indole-2-carboxamide (0.45 g, 2.2 mmol), (3-fluorophenyl)boronic acid (0.94 g, 6.7 mmol), cupric acetate (0.60 g, 3.3 mmol), and methylene chloride (80 mL) and then pyridine (0.72 mL, 8.9 mmol). The reaction mixture was stirred at room temperature over weekend, then filtered through a pad of Celite. The filtrate was concentrated and purified on silica gel (eluting with 0-25% EtOAc in hexane) to give the title compound (0.30 g, 46%). LCMS calculated for C17H16FN2O2(M+H)+: m/z=299.1. Found: 299.0.

reactant | N-methoxy-N-methyl-1H-indole-2-carboxamide | 2.2 mmol, 0.45 g | CON(C(=O)C=1NC2=CC=CC=C2C1)C | C11H12N2O2
reactant | (3-fluorophenyl)boronic acid | 6.7 mmol, 0.94 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | pyridine | 8.9 mmol, 0.72 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-Fluorophenyl)-N-methoxy-N-methyl-1H-indole-2-carboxamide | 0.30 g, 46% | FC=1C=C(C=CC1)N1C(=CC2=CC=CC=C12)C(=O)N(C)OC | C17H15FN2O2
